US08039472B2
To a solution of 5-Oxo-pyrrolidine-3-carboxylic acid methyl ester (1 eq.) in dry DMF is added NaH (1.1 eq.) followed by 1-(3-bromo-propyl)-1H-pyrrole (1 eq.). The reaction mixture is stirred at room temperature overnight. Purification is by normal phase chromatography to yield 5-Oxo-1-(3-pyrrol-1-yl-propyl)-pyrrolidine-3-carboxylic acid methyl ester.

reactant | 5-Oxo-pyrrolidine-3-carboxylic acid methyl ester | 1 eq. | COC(=O)C1CNC(C1)=O | C6H9NO3
reactant | NaH | 1.1 eq. | [H-].[Na+]
reactant | 1-(3-bromo-propyl)-1H-pyrrole | 1 eq. | BrCCCN1C=CC=C1 | C7H10BrN
solvent | DMF | CN(C)C=O | C3H7NO
product | 5-Oxo-1-(3-pyrrol-1-yl-propyl)-pyrrolidine-3-carboxylic acid methyl ester | COC(=O)C1CN(C(C1)=O)CCCN1C=CC=C1 | C13H18N2O3
